US06514996B2
(Step A) 2-Bromo-3-(cyclohexan-2-en-1-oxy)-4-methoxybenzaldehyde (Compound IIn-a)
Diethyl azodicarboxylate (2.7 ml) was dropwise added to a mixture of 2-bromo-3-hydroxy-4-methoxy-benzaldehyde (4.0 g), THF (80 ml), 2-cyclohexen-1-ol (1.2 ml), and triphenylphosphine (4.5 g) under ice-cooling, followed by stirring at room temperature for 2 hours. The mixture was poured into water followed by extraction with ether. The organic layer was washed with a 1N aqueous solution of sodium hydroxide and with a saturated saline, and dried over sodium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (hexane:ethyl acetate=10:1 and 5:1) to give Compound IIn-a (1.8 g, 47%) as a pale-yellow oily substance.

reactant | Diethyl azodicarboxylate | 2.7 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-bromo-3-hydroxy-4-methoxy-benzaldehyde | 4.0 g | BrC1=C(C=O)C=CC(=C1O)OC | C8H7BrO3
reactant | 2-cyclohexen-1-ol | 1.2 ml | C1(C=CCCC1)O | C6H10O
reactant | triphenylphosphine | 4.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 2-Bromo-3-(cyclohexan-2-en-1-oxy)-4-methoxybenzaldehyde | BrC1=C(C=O)C=CC(=C1OC1C=CCCC1)OC | C14H15BrO3
